US07781478B2
A solution of 1-cyclopropyl-6-methoxy-1H-indole-3-carbonitrile (3.60 g, 17.0 mmol) in CH2Cl2 (50.0 mL) was cooled to −78° C. and treated with BBr3 (21.27 g, 8.03 mL, 84.9 mmol), stirred for 10 min and then brought to room temperature and stirred for additional 30 minutes. The reaction mixture was poured into ice-water (150 mL), neutralized with NaHCO3 and the precipitate was collected by filtration, washed with water and purified on silica gel (CH2Cl2/EtOAc, 9:1) to provide 1-cyclopropyl-6-hydroxy-1H-indole-3-carbonitrile as a solid (3.02 g, 90%).

reactant | 1-cyclopropyl-6-methoxy-1H-indole-3-carbonitrile | 17.0 mmol, 3.60 g | C1(CC1)N1C=C(C2=CC=C(C=C12)OC)C#N | C13H12N2O
reactant | BBr3 | 84.9 mmol, 8.03 mL, 21.27 g | B(Br)(Br)Br | BBr3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 50.0 mL | C(Cl)Cl | CH2Cl2
product | 1-cyclopropyl-6-hydroxy-1H-indole-3-carbonitrile | 3.02 g, 90% | C1(CC1)N1C=C(C2=CC=C(C=C12)O)C#N | C12H10N2O
